US09145415B2
To a solution of 2-(5-(4-chloro-2-((3-fluorophenyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (J5, 124 mg) in 1,4-dioxane (2 mL), triethylamine (119 μL) and 3-methoxypropylamine (88 μL) were added at room temperature, and the mixture was stirred overnight at 50° C. in a sealed tube. The reaction mixture was cooled to room temperature, and then ethyl acetate and water were added to the reaction mixture. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2-(5-(2-((3-fluorophenyl)amino)-4-((3-methoxypropyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (J6, 90 mg) as pale yellow solid.

reactant | 2-(5-(4-chloro-2-((3-fluorophenyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | ClC1=NC(=NC=C1C#CCCCN1C(C2=CC=CC=C2C1=O)=O)NC1=CC(=CC=C1)F | C23H16ClFN4O2
reactant | triethylamine | 119 μL | C(C)N(CC)CC | C6H15N
reactant | 3-methoxypropylamine | 88 μL | COCCCN | C4H11NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(5-(2-((3-fluorophenyl)amino)-4-((3-methoxypropyl)amino)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 90 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCCOC)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C27H26FN5O3
